US05929117
1-(3,4-Dimethoxyphenyl)-1-phenylprop-1-ene was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4-dimethoxybenzophenone (3 g, 12.4 mmol), (ethyl)triphenylphosphonium bromide (5.1 g, 13.6 mmol) and lithium hexamethyldisilazide (13.6 mL, 13.6 mmol, 1M) with a reaction time of 4 hours at room temperature. The crude mixture was purified by flash column chromatography (silica gel, 10% hexane/methylene chloride) to afford 1.3 g (41%) of a mixture of the E and Z isomers as a white solid: mp 72-73° C.; 1H NMR (CDCl3) δ 7.40-6.80 (m, 16H), 6.16-6.08 (m, 2H), 3.90-3.80 (m, 12H), 1.97-1.73 (m, 6H); 13C NMR (CDCl3) δ 148.6, 148.5, 148.1, 147.8 142.9, 142.3, 142.0, 140.0, 136.0, 132.5, 129.9, 128.0, 128.0, 127.1, 126.7, 126.6, 123.8, 122.6, 122.5, 119.8, 113.6, 110.8, 110.7, 110.4, 55.8, 55.8, 55.7, 15.7, 15.5; Anal. Calcd for C17H18O2. Theoretical: C, 80.28; H, 7.13. Found: C, 79.94; H, 7.12.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxybenzophenone | 12.4 mmol, 3 g | COC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC | C15H14O3
reactant | lithium hexamethyldisilazide | 13.6 mmol, 1M, 13.6 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
catalyst | (ethyl)triphenylphosphonium bromide | 13.6 mmol, 5.1 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(3,4-Dimethoxyphenyl)-1-phenylprop-1-ene | COC=1C=C(C=CC1OC)C(=CC)C1=CC=CC=C1 | C17H18O2
